US08258160B2
Preparation of ethyl 5-cyano-3-methylthiophene-2-carboxylate
A mixture of ethyl 5-bromo-3-methylthiophene-2-carboxylate and ethyl 4-bromo-3-methylthiophene-2-carboxylate (˜1:4) (7.12 g, 28.60 mmol) and copper cyanide (7.68 g, 85.79 mmol) in anhydrous N,N-dimethylformamide (50 mL) was stirred under nitrogen atmosphere at 150° C. for 5 h. The mixture was allowed to cool to ambient temperature, and then partitioned between ethyl acetate (200 mL) and 14% aqueous ammonium hydroxide (200 mL). The organic layer was washed with 14% aqueous ammonium hydroxide (2×100 mL) and brine (100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The two regioisomers were separated by column chromatography eluted with 2% ethyl acetate in hexanes to afford the title compound as a colorless solid (0.42 g, 38%): 1H NMR (300 MHz, CDCl3) δ 7.39 (s, 1H), 4.36 (q, J=7.1 Hz, 2H), 2.55 (s, 3H), 1.38 (t, J=7.1 Hz, 3H); MS (ES+) m/z 196.1 (M+1).

reactant | ethyl 5-bromo-3-methylthiophene-2-carboxylate | BrC1=CC(=C(S1)C(=O)OCC)C | C8H9BrO2S
reactant | ethyl 4-bromo-3-methylthiophene-2-carboxylate | 28.60 mmol, 7.12 g | BrC=1C(=C(SC1)C(=O)OCC)C | C8H9BrO2S
reactant | copper cyanide | 85.79 mmol, 7.68 g | [Cu](C#N)C#N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 5-cyano-3-methylthiophene-2-carboxylate | 0.42 g, 38% | C(#N)C1=CC(=C(S1)C(=O)OCC)C | C9H9NO2S
